* c:\fossee2\esim\library\subcircuitlibrary\sc_74act11240\sc_74act11240.cir

* u2  net-_u1-pad24_ net-_u2-pad2_ d_inverter
* u3  net-_u1-pad23_ net-_u2-pad2_ net-_u3-pad3_ d_tristate
* u4  net-_u1-pad22_ net-_u2-pad2_ net-_u4-pad3_ d_tristate
* u5  net-_u1-pad21_ net-_u2-pad2_ net-_u5-pad3_ d_tristate
* u6  net-_u1-pad20_ net-_u2-pad2_ net-_u10-pad1_ d_tristate
* u11  net-_u1-pad13_ net-_u11-pad2_ d_inverter
* u12  net-_u1-pad17_ net-_u11-pad2_ net-_u12-pad3_ d_tristate
* u13  net-_u1-pad16_ net-_u11-pad2_ net-_u13-pad3_ d_tristate
* u14  net-_u1-pad15_ net-_u11-pad2_ net-_u14-pad3_ d_tristate
* u15  net-_u1-pad14_ net-_u11-pad2_ net-_u15-pad3_ d_tristate
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ ? ? ? ? net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ ? ? net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ port
* u7  net-_u3-pad3_ net-_u1-pad1_ d_inverter
* u8  net-_u4-pad3_ net-_u1-pad2_ d_inverter
* u9  net-_u5-pad3_ net-_u1-pad3_ d_inverter
* u10  net-_u10-pad1_ net-_u1-pad4_ d_inverter
* u16  net-_u12-pad3_ net-_u1-pad9_ d_inverter
* u17  net-_u13-pad3_ net-_u1-pad10_ d_inverter
* u18  net-_u14-pad3_ net-_u1-pad11_ d_inverter
* u19  net-_u15-pad3_ net-_u1-pad12_ d_inverter
a1 net-_u1-pad24_ net-_u2-pad2_ u2
a2 net-_u1-pad23_ net-_u2-pad2_ net-_u3-pad3_ u3
a3 net-_u1-pad22_ net-_u2-pad2_ net-_u4-pad3_ u4
a4 net-_u1-pad21_ net-_u2-pad2_ net-_u5-pad3_ u5
a5 net-_u1-pad20_ net-_u2-pad2_ net-_u10-pad1_ u6
a6 net-_u1-pad13_ net-_u11-pad2_ u11
a7 net-_u1-pad17_ net-_u11-pad2_ net-_u12-pad3_ u12
a8 net-_u1-pad16_ net-_u11-pad2_ net-_u13-pad3_ u13
a9 net-_u1-pad15_ net-_u11-pad2_ net-_u14-pad3_ u14
a10 net-_u1-pad14_ net-_u11-pad2_ net-_u15-pad3_ u15
a11 net-_u3-pad3_ net-_u1-pad1_ u7
a12 net-_u4-pad3_ net-_u1-pad2_ u8
a13 net-_u5-pad3_ net-_u1-pad3_ u9
a14 net-_u10-pad1_ net-_u1-pad4_ u10
a15 net-_u12-pad3_ net-_u1-pad9_ u16
a16 net-_u13-pad3_ net-_u1-pad10_ u17
a17 net-_u14-pad3_ net-_u1-pad11_ u18
a18 net-_u15-pad3_ net-_u1-pad12_ u19
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u3 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u4 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u5 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u6 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u11 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u12 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u13 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u14 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u15 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u7 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u8 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u9 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u10 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u16 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u17 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u18 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u19 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 10e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
